US04110536
5-(5-Chloroindol-3-ylmethyl)hydantoin
A mixture of 5-chlorotryptophan (32 g, 0.14 mole) and potassium cyanate (22.6 g, 0.28 mole) in 500 ml of H2O was heated on the steam bath for 3 hours, cooled and acidified with concentrated HCl. The solid was collected, suspended in 500 ml of 10% HCl and heated on the steam bath for 2 hours. The solid, obtained on cooling, was dissolved in dilute NaOH, filtered and acidified with dilute HCl. The solid obtained was recrystallized from aqueous 2-PrOH. Yield 17 g (37.6%), m.p. 226°-8°, contains a mole of 2-PrOH.

reactant | 5-chlorotryptophan | 0.14 mole, 32 g | ClC1=CC=C2NC=C(C[C@H](N)C(=O)O)C2=C1 | C11H11ClN2O2
reactant | potassium cyanate | 0.28 mole, 22.6 g | [O-]C#N.[K+]
reactant | HCl | Cl | ClH
solvent | H2O | 500 ml | O | H2O
solvent | NaOH | [OH-].[Na+]
product | 5-(5-Chloroindol-3-ylmethyl)hydantoin | ClC=1C=C2C(=CNC2=CC1)CC1C(NC(N1)=O)=O | C12H10ClN3O2
